US08242175B2
A mixture of (E)-3-{4-[(E)-3-(4-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-acrylic acid potassium salt (1.39 g, 4.01 mmol), EDC (1.53 g, 8.03 mmol), HOBT (1.08 g, 8.03 mmol), TEA (1.11 ml, 8.03 mmol), NH2OTHP (939 mg, 8.03 mmol) in THF (20 ml) and DMF (20 ml) was stirred at room temperature overnight and then partitioned between water and AcOEt. The organic phase was washed with water, dried over Na2SO4 and evaporated in vacuo. The resulting solid was triturated with di-isopropylether and filtered to give 1.15 g of (E)-3-{4-[(E)-3-(4-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide.

reactant | (E)-3-{4-[(E)-3-(4-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-acrylic acid potassium salt | 4.01 mmol, 1.39 g | [K+].OCC1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)[O-])=O
reactant | EDC | 8.03 mmol, 1.53 g
reactant | HOBT | 8.03 mmol, 1.08 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 8.03 mmol, 939 mg | NOC1OCCCC1 | C5H11NO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (E)-3-{4-[(E)-3-(4-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 1.15 g | OCC1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NOC1OCCCC1)=O | C24H25NO5
